US04760163
using isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate and ethyl 2-amino-4,5-dihydrofuran-3-carboxylate there is obtained isopropyl 2-chloro-4-fluoro-5-{3-[3-(ethoxycarbonyl)-4,5-dihydro-furan-2-yl]ureido}-benzoate.

reactant | isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N=C=O | C11H9ClFNO3
reactant | ethyl 2-amino-4,5-dihydrofuran-3-carboxylate | NC=1OCCC1C(=O)OCC | C7H11NO3
product | isopropyl 2-chloro-4-fluoro-5-{3-[3-(ethoxycarbonyl)-4,5-dihydro-furan-2-yl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC=1OCCC1C(=O)OCC | C18H20ClFN2O6
